US03969354
1-((E)-3-chloro-2-propenyl)-2-(nitromethylene)imidazolidine (12)
Method B, reacting 2-(nitromethylene)imidazolidine with trans-1,3-dichloro-1-propene. Melting point: 134°-135°C.

reactant | 2-(nitromethylene)imidazolidine | [N+](=O)([O-])C=C1NCCN1 | C4H7N3O2
reactant | trans-1,3-dichloro-1-propene | Cl\C=C\CCl | C3H4Cl2
product | 1-((E)-3-chloro-2-propenyl)-2-(nitromethylene)imidazolidine | Cl/C=C/CN1C(NCC1)=C[N+](=O)[O-] | C7H10ClN3O2
